US06933311B2
N-(4-bromobenzyl)-N′-(3-hydroxy-5-isoquinolinyl)urea
5-Amino-3-isoquinolinyl acetate in toluene:THF (5:1, 5 mL) was treated with 1-bromo-4-(isocyanatomethyl)benzene (105 mg). After stirring for 1 hour, the mixture was concentrated under reduced pressure and the residue dissolved in MeOH (20 mL) and treated with K2CO3 (4 eq) and stirred for 16 hours. The mixture was concentrated under reduced pressure and partitioned between CH2Cl2 and water. The aqueous phase was separated and the pH was adjusted to approximately 6 with HCl. The acidified solution was filtered, and the filter cake was dried. The solid was purified by reverse-phase chromatography (using TFA as eluent) to provide the title compound. MS (ESI+) m/z 374, 372 (M+H)+; MS (ESI−) m/z 372, 370 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 4.33 (d, J 5.8, 2H), 7.06 (m, 1H), 7.29 (m, 3H), 7.57 (m, 3H), 8.07 (d, J 7.8, 1H), 8.48 (s, 1H), 8.80 (s, 1H), 8.87 (s, 1H); Anal. Calcd for C17H14BrN3O2+0.2 TFA: C, 53.08; H, 3.42; N, 10.43. Found: C, 52.91; H, 3.62; N, 10.43.

reactant | 5-Amino-3-isoquinolinyl acetate | C(C)(=O)OC=1N=CC2=CC=CC(=C2C1)N | C11H10N2O2
reactant | 1-bromo-4-(isocyanatomethyl)benzene | 105 mg | BrC1=CC=C(C=C1)CN=C=O | C8H6BrNO
reactant | K2CO3 | 4 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene THF | 5 mL | C1(=CC=CC=C1)C.C1CCOC1
product | N-(4-bromobenzyl)-N′-(3-hydroxy-5-isoquinolinyl)urea | BrC1=CC=C(CNC(=O)NC2=C3C=C(N=CC3=CC=C2)O)C=C1 | C17H14BrN3O2
